US04634769
Ethyl 6-amino-2,3-dimethoxybenzoate (3)
Ethyl 2,3-dimethoxy-6-nitrobenzoate (200 g, 0.979 mole) was dissolved in ethanol (2 L) containing 5% palladium on carbon and hydrogenated until the theoretical amount of hydrogen was absorbed. Filtration and removal of the solvent in vacuo provided the product as a yellow oil, 220.6 g (98.0%).

reactant | Ethyl 2,3-dimethoxy-6-nitrobenzoate | 0.979 mole, 200 g | COC1=C(C(=O)OCC)C(=CC=C1OC)[N+](=O)[O-] | C11H13NO6
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 2 L | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | Ethyl 6-amino-2,3-dimethoxybenzoate | NC1=CC=C(C(=C1C(=O)OCC)OC)OC | C11H15NO4
